US05589473
A suspension of 23 g 2-bromo-5-hydroxy-3-methoxy-6-methyl-benzoic acid methyl ester in 200 ml of 3N sodium hydroxide was stirred at 70° C. for 85 h. The cooled solution was washed with diethyl ether and then acidified to pH 1 by the addition of 3N hydrochloric acid. The aqueous layer was extracted with diethyl ether and the organic phase was washed with brine, dried over sodium sulfate and evaporated in vacuo. The residue was recrystallized from diethyl ether/pentane to yield 21 g of 2-bromo-5-hydroxy-3-methoxy-6-methyl-benzoic acid as white crystals, m.p.79°-80° C.

reactant | 2-bromo-5-hydroxy-3-methoxy-6-methyl-benzoic acid methyl ester | 23 g | COC(C1=C(C(=CC(=C1C)O)OC)Br)=O | C10H11BrO4
solvent | sodium hydroxide | 3N, 200 ml | [OH-].[Na+]
product | 2-bromo-5-hydroxy-3-methoxy-6-methyl-benzoic acid | 21 g | BrC1=C(C(=O)O)C(=C(C=C1OC)O)C | C9H9BrO4
